US07241792B2
Preparation of (±)-1,1-Dimethyl-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carboxylic acid (Compound 6)
(±)-1,1-Dimethyl-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carboxylic acid ethyl ester (0.0390 g, 0.177 mmol) was stirred for 18 hours at room temperature in a solution of 1:5:1 methanol:THF:1M aqueous lithium hydroxide (14 mL). Solvent was removed under reduced pressure, the residue was taken up in 1M aqueous hydrochloric acid (5 mL) and extracted into ethyl acetate (40 mL). Solvent was removed under reduced pressure and the residue purified by preparative HPLC to give a white solid. m/z (ES+): 215 [M+Na]+, 193 [M+H]+, 175 [M−OH]+; 1H NMR (CD3CN): δ 2.91 (dd, 1H, J1=17.4, J2=6.8), 2.66 (d, 1H, J=17.4), 2.11 (dd, 1H, J1=6.3, J2=1.2), 2.05–1.95 (m, 1H), 1.19 (s, 3H, exo-CH3), 0.77 (d, 3H, J=2.0, endo-CH3).

reactant | (±)-1,1-Dimethyl-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carboxylic acid ethyl ester | 0.177 mmol, 0.0390 g | C(C)OC(=O)C1=C2CC3C(C2=NN1)C3(C)C | C12H16N2O2
reactant | methanol | CO | CH4O
reactant | lithium hydroxide | 1M, 14 mL | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | (±)-1,1-Dimethyl-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carboxylic acid | CC1(C2C1CC1=C(NN=C21)C(=O)O)C | C10H12N2O2
